US05723497
Preparation of monosodium 2-(2-hydroxy-3-tetradecyloxypropylamino)ethyl phosphate [Monosodium (IIa-14)]:
A 300-ml flask equipped with a stirrer was charged with 5.13 g (14.8 mmol) of 3-(2-hydroxyethylamino)-1-tetradecyloxy-2-propanol prepared from tetradecyl glycidyl ether and ethanolamine in the same manner as in Preparation Example 14, and 70 mol of tetrahydrofuran, 1.95 g (16.9 mmol) of 85% phosphoric acid and 3.54 g (30.7 mmol) of P2O5 were added thereto. The resultant mixture was stirred at 65° C. for 10 hours. After cooling the mixture to room temperature, 0.56 g of water was added to the mixture, stirring was conducted for 30 minutes, 5.0 g of 48% aqueous NaOH were added further. After concentrating the resultant reaction mixture under reduced pressure, the resultant residue was subjected to extraction with ethanol by means of a Soxhlet's extractor. The resultant extract was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel, thereby obtaining 2.32 g (yield: 34.9%) of the title compound monosodium (IIa-14).

reactant | 3-(2-hydroxyethylamino)-1-tetradecyloxy-2-propanol | 14.8 mmol, 5.13 g | OCCNCC(COCCCCCCCCCCCCCC)O | C19H41NO3
reactant | tetradecyl glycidyl ether | C(C1CO1)OCCCCCCCCCCCCCC | C17H34O2
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | tetrahydrofuran | 70 mol | O1CCCC1 | C4H8O
reactant | phosphoric acid | 16.9 mmol, 1.95 g | P(O)(O)(O)=O | H3O4P
reactant | P2O5 | 30.7 mmol, 3.54 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | NaOH | 5.0 g | [OH-].[Na+]
reactant | monosodium | [Na] | Na
solvent | water | 0.56 g | O | H2O
product | monosodium 2-(2-hydroxy-3-tetradecyloxypropylamino)ethyl phosphate | 2.32 g, yield: 34.9% | P(=O)(OCCNCC(COCCCCCCCCCCCCCC)O)([O-])O.[Na+] | InChI=1S/C19H42NO6P.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-15-25-18-19(21)17-20-14-16-26-27(22,23)24;/h19-21H,2-18H2,1H3,(H2,22,23,24);/q;+1/p-1
